US05137892
Step 1: 1-Cyclopropyl-6,8-difluoro-7-(9-amino-1,4-dioxa-7-azaspiro[4.4]non-7-yl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester
Following the procedure of Step 1 Example 80, starting with 0.750 g (2.4 mmol) of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester and substituting 0.521 g (3.6 mmol) of 9-amino-1,4-dioxa-7-azaspiro[4.4]nonane, from Step 6 Example 208, for the spiro compound of that example, and heating at 40° C. instead of 65° C. for 288 hours instead of 48 hours, the crude product was obtained. The compound was dissolved in methylene chloride which was washed with 2×100 mL of water then dried over anhydrous sodium sulfate, then the solvent was removed by evaporation under vacuum. The product was purified with HPLC, eluting with 60% increasing to 65% methanol/water. The solvent was removed by evaporation under vacuum to afford 0.466 g of the title compound, NMR (CDCl3) d 1.12 (m, 4H), 1.40 (t, 3H, J=7.5 Hz), 3.45 (m, 5H), 3.62 (m, 1H), 3.78 (m, 2H), 3.84 (m, 1H), 3.98 (m, 1H), 4.07 (m, 4H), 4.38 (q, 2H, J=7.5 Hz), 7.83 (dd, 1H, J=15, 1.5 Hz), 8.50 (s, 1H).

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester | 2.4 mmol, 0.750 g | C(C)OC(=O)C1=CN(C2=C(C(=C(C=C2C1=O)F)F)F)C1CC1 | C15H12F3NO3
reactant | 9-amino-1,4-dioxa-7-azaspiro[4.4]nonane | 3.6 mmol, 0.521 g | NC1CNCC12OCCO2 | C6H12N2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Cyclopropyl-6,8-difluoro-7-(9-amino-1,4-dioxa-7-azaspiro[4.4]non-7-yl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester | 0.466 g | C(C)OC(=O)C1=CN(C2=C(C(=C(C=C2C1=O)F)N1CC2(OCCO2)C(C1)N)F)C1CC1 | C21H23F2N3O5
